US08466282B2
Tert-butyl (3S,5R)-5-acetyl-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate (1.06 g) in THF (20 ml) was added 1M-methyl magnesium bromide-THF solution (9.24 ml), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-3:2) was concentrated under reduced pressure to give the object product (0.59 g).

reactant | tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate | 1.06 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(N(C)OC)=O)C(=O)OC(C)(C)C)CC(C)C | C30H47N5O6
reactant | methyl magnesium bromide THF | 9.24 ml | C[Mg]Br.C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3S,5R)-5-acetyl-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 0.59 g | C(C)(=O)[C@@H]1C[C@@H](CN(C1)C(=O)OC(C)(C)C)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2 | C29H44N4O5
